US07105567B2
By the reaction and treatment in the same manner as in Example 2 using [(4-dimethylaminophenyl)methyl](3-isopropylphenyl)amine (1.0 g) and 2,6-diisopropylphenyl isocyanate (0.83 g) as starting materials, N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]-N-(3-isopropylphenyl)urea (0.40 g) was obtained.

reactant | [(4-dimethylaminophenyl)methyl](3-isopropylphenyl)amine | 1.0 g | CN(C1=CC=C(C=C1)CNC1=CC(=CC=C1)C(C)C)C | C18H24N2
reactant | 2,6-diisopropylphenyl isocyanate | 0.83 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]-N-(3-isopropylphenyl)urea | 0.40 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(C1=CC(=CC=C1)C(C)C)CC1=CC=C(C=C1)N(C)C)=O | C31H41N3O
